US07932262B2
To a solution of 2-chloroquinazolin-8-ol (1 eq) in chloroform was added N-chlosuccinimide (1 eq) and the resulting mixture was heated to 40° C. for 2 h. The chlorination goes to completion giving 2,5-dichloroquinazolin-8-ol in 65% yield. 25% of the reaction was 2,7-dichloroquinazolin-8-ol and 15% of the reaction mixture was 2,5,8-trichloro quinazolin-8-ol. The reaction mixture was concentrated and the crude was purified by silica gel. The structures of the isomers were confirmed by 1H NMR and by LC/MS. ES/MS m/z 215 (MH+).

reactant | 2-chloroquinazolin-8-ol | 1 eq | ClC1=NC2=C(C=CC=C2C=N1)O | C8H5ClN2O
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2,5-dichloroquinazolin-8-ol | 65% yield | ClC1=NC2=C(C=CC(=C2C=N1)Cl)O | C8H4Cl2N2O
